US03937718
N-Benzyloxycarbonylglycine benzyl ester
To a mixture of 1.05 g. of N-benzyloxycarbonylglycine, 0.54 g. of benzylalcohol and 50 ml. of methylene chloride is added dropwise a solution of 1.31 g. of triphenyl phosphine and 1.10 g. of 2,2'-dipyridyl disulfide in 20 ml. of methylene chloride while stirring at room temperature. After completion of the addition, the mixture is stirred at room temperature for an additional 6 hours. The reaction mixture is treated with the same procedure as described above to give 1.36 g. of the desired product melting at 71° - 72°C.

reactant | N-benzyloxycarbonylglycine | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | benzylalcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2'-dipyridyl disulfide | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-Benzyloxycarbonylglycine benzyl ester | C(C1=CC=CC=C1)OC(CNC(=O)OCC1=CC=CC=C1)=O | C17H17NO4
